US06828317B2
II. N′-[{4-[5(S)-(tert-Butoxycarbonylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-(2-oxo-tetrahydro-furan-3-ylsulfanyl)-methylene]-hydrazinecarboxylic acid tert-butyl ester
Prepared from α-bromo-γ-butyrolactone (0.021 ml, 0.227 mmol) and N′-{4-[5(S)-(tert-butoxycarbonylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorothiobenzoyl}-hydrazinecarboxylic acid tert-butyl ester (0.100 g, 0.206 mmol) according to the procedure of Example 1, Intermediate II (0.95 g, 80%); MS (m/z): [M+H]+=569.

reactant | α-bromo-γ-butyrolactone | 0.227 mmol, 0.021 ml | BrC1C(=O)OCC1 | C4H5BrO2
reactant | N′-{4-[5(S)-(tert-butoxycarbonylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorothiobenzoyl}-hydrazinecarboxylic acid tert-butyl ester | 0.206 mmol, 0.100 g | C(C)(C)(C)OC(=O)NNC(C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(=O)OC(C)(C)C)=O)F)=S | C21H29FN4O6S
product | N′-[{4-[5(S)-(tert-Butoxycarbonylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluorophenyl}-(2-oxo-tetrahydro-furan-3-ylsulfanyl)-methylene]-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN=C(SC1C(OCC1)=O)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(=O)OC(C)(C)C)=O)F | C25H33FN4O8S
